US08378104B2
Step B: 7-bromothieno[3,2-d]pyrimidine
Thieno[3,2-d]pyrimidine (0.163 g, 1.20 mmol) was dissolved in acetic acid (3 mL). Sodium acetate (0.196 g, 2.39 mmol) was added while stirring, followed by bromine (0.38 g, 2.4 mmol). The reaction mixture was heated in a microwave reactor at 90° C. for 90 min. Solvent was removed by rotary evaporation, then under high vacuum. Purification by ISCO chromatography (0 to 10% methanol:DCM) afforded 0.152 g (59%) of the title compound as a yellow solid. 1H NMR (400 MHz, CDCl3): δ 9.36 (s, 1 H), 9.30 (s, 1 H), 8.05 (s, 1 H); MS (ESI): 214.97, 216.99 [M+H]+.

reactant | Thieno[3,2-d]pyrimidine | 1.20 mmol, 0.163 g | N1=CN=CC2=C1C=CS2 | C6H4N2S
reactant | Sodium acetate | 2.39 mmol, 0.196 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 2.4 mmol, 0.38 g | BrBr | Br2
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 7-bromothieno[3,2-d]pyrimidine | 0.152 g, 59% | BrC1=CSC2=C1N=CN=C2 | C6H3BrN2S
